US04801717
15 ml of nitric acid were added with stirring at -5° C. to 30 ml of concentrated sulfuric acid and then 16 g of 8-fluoroquinoline were added thereto with stirring over 30 minutes at -5° to 0° C. The mixture was stirred at 0° C. for three hours and was then allowed to return to room temperature. The mixture was stirred at room temperature for two hours and was then poured into a mixture of water and ice. The mixture was vacuum filtered and the product was suspended in water. The mixture was made alkaline by addition of 10% sodium carbonate solution and was extracted with methylene chloride. The organic phase was dried and evaporated to dryness under reduced pressure to obtain 12 g of 5-nitro-8-fluoro-quinoline melting at 132°-133° C.

reactant | nitric acid | 15 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 8-fluoroquinoline | 16 g | FC=1C=CC=C2C=CC=NC12 | C9H6FN
solvent | water | O | H2O
product | 5-nitro-8-fluoro-quinoline | 12 g | [N+](=O)([O-])C1=C2C=CC=NC2=C(C=C1)F | C9H5FN2O2
